US07417056B2
5-[4-(5-Fluoro-2, 3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-2-methylquinoline
5-[4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylidenamino]-2-methylquinoline (266 mg, 0.58 mmol) and sodium bicarbonate (250 mg) in methanol (15 ml) are stirred for 15 minutes at room temperature. Sodium borohydride (152 mg, 4 mmol) is added thereto in 4 portions over 24 hours. After the reaction is completed (TLC monitoring), the batch is mixed with saturated NaHCO3 solution (10 ml) and concentrated by evaporation. The residue is taken up in ethyl acetate (30 ml) and water (20 ml), and the phases are separated. The aqueous phase is extracted with ethyl acetate. The combined organic phases are dried (Na2SO4) and concentrated by evaporation. Column chromatography on silica gel with hexane-ethyl acetate yields 200 mg of the product.

reactant | 5-[4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylidenamino]-2-methylquinoline | 0.58 mmol, 266 mg | FC=1C=C(C2=C(CCO2)C1)C(CC(C=NC1=C2C=CC(=NC2=CC=C1)C)(C(F)(F)F)O)(C)C | C25H24F4N2O2
reactant | sodium bicarbonate | 250 mg | C([O-])(O)=O.[Na+]
reactant | Sodium borohydride | 4 mmol, 152 mg | [BH4-].[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 5-[4-(5-Fluoro-2, 3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-2-methylquinoline | 200 mg | FC=1C=C(C2=C(CCO2)C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)C)(C(F)(F)F)O)(C)C | C25H26F4N2O2
